US05965559
Thionyl chloride (1.6 ml) was added dropwise to a stirred suspension of 1-(4-pyridyl)piperidine-4-carboxylic acid (2.17 g) in methylene chloride (30 ml) and the mixture was stirred at ambient temperature for 1 hour. The mixture was evaporated to give 1-(4-pyridyl)piperidine-4-carbonyl chloride which was used without further purification.

reactant | Thionyl chloride | 1.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(4-pyridyl)piperidine-4-carboxylic acid | 2.17 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C11H14N2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
